US04874867
Part D: 5-(4'-methylbiphenyl-2-yl)tetrazole
2-[1-(β-cyanoethyl)-1-H-tetrazol-5-yl]-4'-methylbiphenyl (689mg, 2.34 mmol), 1.0N NaOH (2.62 mL, 2.62 mmol) and THF (15 mL) were mixed and stirred at room temperature. After 15 minutes, water (100 mL) was added and the pH adjusted to 3.0 with conc. HCl. The aqueous mixture was extracted with ethyl acetate (3×100 mL) and the organic layers were combined, dried (MgSO4) and evaporated in vacuo to yield 550 mg of a white powder. M.P.=148.5°-150.0°. The spectral data matched those of a sample prepared via Method A.

reactant | 2-[1-(β-cyanoethyl)-1-H-tetrazol-5-yl]-4'-methylbiphenyl | 2.34 mmol, 689mg | C(#N)CCN1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C | C17H15N5
reactant | NaOH | 2.62 mmol, 1.0N, 2.62 mL | [OH-].[Na+]
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 5-(4'-methylbiphenyl-2-yl)tetrazole | 550 mg | CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C14H12N4
